US07132426B2
Step 3: Preparation of 4-Chloro-1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine
Into a 50 mL round-bottomed equipped with a reflux condenser and N2 inlet septum was place a stir bar, 1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol (93 mg, 0.32 mmol), dimethylaniline (0.3 mL) and POCl3 (10 mL). The reaction mixture was stirred at room temperature under N2 for 5 minutes and brought to reflux for 6 hrs. After cooling down to room temperature, the reaction mixture was poured into ice and extracted with CH2Cl2 quickly. The crude product was then purified by flash chromatography (EtOAc: Hex=1:1), 24 mg of product was obtained (27% yield). 1H NMR (DMSO-d6, 400 MHz) δ 3.29 (s, 3H), 8.19 (d, 2H), 8.53 (d, 2H), 8.89 (s, 1H), 9.08 (s, 1H). LCMS calculated C12H9ClN4O2S 308.01, observed 309.1 (MH+).

reactant | 1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol | 0.32 mmol, 93 mg | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2O | C12H10N4O3S
reactant | dimethylaniline | 0.3 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 24 mg, 27% yield | ClC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)S(=O)(=O)C | C12H9ClN4O2S
